US06107342
To a solution of (1S,2R,3R,5R,6S)-3-allyloxy-2-azido-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (XXIII-2) (101 mg, 0.262 mmol) in THF (3.9 mL) and H2O (0.4 mL) was added Me3P (0.29 mL, 0.29 mmol, 1 M sol. in THF) and stirring was continued at 23° C. for 3 h. The reaction mixture was diluted with ether, washed with sat. NaHCO3 -sol., brine and dried over Na2SO4. The crude product was purified by silica gel column chromatography with hexane/EtOAc 1:1 (+small amount of Et3N) to give (1S,2R,3R,5R,6S)-3-allyloxy-2-amino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (XXIV-2) (47 mg, 50%) as a light brown oil. 1H-NMR (250 MHz, CDCl3) □1.24 (3H, t, J=7.1 Hz), 1.76 (1H, t, J=3.5 Hz), 1.93 (2H, bs), 1.99 (1H, m), 2.07-2.18 (2H, m), 2.31 (1H, dd, J=12.5, 7 Hz), 3.45 (1H, bt, J=8 Hz), 3.93 (2H, bd,J=6 Hz), 4.12 (2H, q, J=7.1 Hz), 5.10-5.35 (4H, m), 5.78 (1H, m), 7.28-7.38 (5H, m); MS[ISP] 360 [(M+H)+ ]; □D20 -10.67° (c=1.00, CHCl3).

reactant | (1S,2R,3R,5R,6S)-3-allyloxy-2-azido-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 0.262 mmol, 101 mg | C(C)OC(=O)[C@H]1[C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])OCC=C | C20H23N3O5
reactant | Me3P | 0.29 mmol, 1 M, 0.29 mL | P(C)(C)C | C3H9P
solvent | THF | 3.9 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.4 mL | O | H2O
solvent | ether | CCOCC | C4H10O
product | (1S,2R,3R,5R,6S)-3-allyloxy-2-amino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 47 mg, 50% | C(C)OC(=O)[C@H]1[C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N)OCC=C | C20H25NO5
